US06270533B1
a) Preparation of (3-imidazol-1-ylpropyl)-(2-methyl-4-nitrophenyl)amine
A mixture of 250.4 g (2 mol) of 3-imidazol-1-ylpropylamine and 82.8 g (0.6 mol) of potassium carbonate in 280 ml of water was heated to 90° C. 155.1 g (1 mol) of 1-fluoro-2-methyl-4-nitrobenzene were added dropwise over 30 minutes and the mixture was maintained at a temperature of 90-95° C. for 4 hours.

reactant | 3-imidazol-1-ylpropylamine | 2 mol, 250.4 g | N1(C=NC=C1)CCCN | C6H11N3
reactant | potassium carbonate | 0.6 mol, 82.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-2-methyl-4-nitrobenzene | 1 mol, 155.1 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
solvent | water | 280 ml | O | H2O
product | (3-imidazol-1-ylpropyl)-(2-methyl-4-nitrophenyl)amine | N1(C=NC=C1)CCCNC1=C(C=C(C=C1)[N+](=O)[O-])C | C13H16N4O2
